US08110585B2
2-methyl-1,3-benzothiazole-7-carbaldehyde
Under nitrogen atmosphere, to a solution of oxalyl chloride (3.78 mL, 44.6 mmol) in dichloromethane (20 mL) was added dimethyl sulfoxide (4.75 mL, 66.9 mmol) at −78° C. and the mixture was stirred for 30 min. To the reaction mixture was added (2-methyl-1,3-benzothiazol-7-yl)methanol (4.00 g, 22.3 mmol) at −78° C. and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (18.8 mL, 134 mmol) at −78° C. and the mixture was stirred for 30 min. The reaction mixture was warmed to room temperature, and the mixture was further stirred at room temperature for 4 hr. Saturated aqueous ammonium chloride solution was added and the mixture was extracted with dichloromethane. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by recrystallization (dichloromethane/hexane) to give the title compound (3.54 g, yield 90%).

reactant | oxalyl chloride | 44.6 mmol, 3.78 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 66.9 mmol, 4.75 mL | CS(=O)C | C2H6OS
reactant | (2-methyl-1,3-benzothiazol-7-yl)methanol | 22.3 mmol, 4.00 g | CC=1SC2=C(N1)C=CC=C2CO | C9H9NOS
reactant | triethylamine | 134 mmol, 18.8 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-methyl-1,3-benzothiazole-7-carbaldehyde | 3.54 g, yield 90% | CC=1SC2=C(N1)C=CC=C2C=O | C9H7NOS
